US07981918B2
(4,5,6,7-Tetrahydro-1H-indazol-4-yl)-carbamic acid benzyl ester
Stir a mixture of (3-Oxo-cyclohexyl)-carbamic acid benzyl ester (12.3 g, 49.8 mmol), toluene (60 mL) and tert-butoxybis(dimethylamino)methane (9.53 g, 54.77 mmol) at 90° C. for 1.5 hour. Cool the reaction and remove the solvent in vacuo. To the residue, add methanol (60 mL) and hydrazine hydrate (2.74 g, 54.77 mmol). Stir the reaction at room temperature for 3 hours. Remove the solvent in vacuo. To the residue, add ethyl acetate and wash with water. After drying the organic layer over sodium sulfate, filter and concentrate to afford 9.8 g of the title compound with 80% purity.

reactant | (3-Oxo-cyclohexyl)-carbamic acid benzyl ester | 49.8 mmol, 12.3 g | C(C1=CC=CC=C1)OC(NC1CC(CCC1)=O)=O | C14H17NO3
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butoxybis(dimethylamino)methane | 54.77 mmol, 9.53 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | hydrazine hydrate | 54.77 mmol, 2.74 g | O.NN
solvent | methanol | 60 mL | CO | CH4O
product | (4,5,6,7-Tetrahydro-1H-indazol-4-yl)-carbamic acid benzyl ester | 9.8 g | C(C1=CC=CC=C1)OC(NC1C=2C=NNC2CCC1)=O | C15H17N3O2
